US04927970
A. 1,2-Dibutoxy-1-cyclobutene -3,4-dione
A mixture of 1-butanol (48 mL), toluene (32 mL), and 1,2-dihydroxy-l-cyclobutene-3,4-dione (16.0 g, 0.1402 mole) was heated at reflux under a nitrogen atmosphere with stirring under a Dean-Stark water separator until water stopped passing over. The resulting solution of the title compound was cooled to 0°-5° C.

reactant | 1-butanol | 48 mL | C(CCC)O | C4H10O
reactant | toluene | 32 mL | C1(=CC=CC=C1)C | C7H8
reactant | 1,2-dihydroxy-l-cyclobutene-3,4-dione | 0.1402 mole, 16.0 g | OC1=C(C(C1=O)=O)O | C4H2O4
solvent | water | O | H2O
product | 1,2-Dibutoxy-1-cyclobutene -3,4-dione | C(CCC)OC1=C(C(C1=O)=O)OCCCC | C12H18O4
